US05494928
A solution of 1.76 g of ethyl 4-methyl-3-methoxyindole-2-carboxylate in 90 ml of ethanol was treated with 45 ml of 2N sodium hydroxide solution and stirred at room temperature for 17 hours. The alcohol was evaporated and the residue was treated with 60 ml o of 2N hydrochloric acid. The separated crystals were filtered off, washed with water and dried. There were obtained 1.2 g (78%) of 4-methyl-3-methoxyindole-2-carboxylic acid as brown crystals with m.p. 136°.

reactant | ethyl 4-methyl-3-methoxyindole-2-carboxylate | 1.76 g | CC1=C2C(=C(NC2=CC=C1)C(=O)OCC)OC | C13H15NO3
reactant | sodium hydroxide | 2N, 45 ml | [OH-].[Na+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 4-methyl-3-methoxyindole-2-carboxylic acid | 1.2 g, 78% | CC1=C2C(=C(NC2=CC=C1)C(=O)O)OC | C11H11NO3
